US09120776B2
A solution of 6-aminonicotinonitrile (100.0 mg, 0.839 mmol) and 4-methyldihydro-2H-pyran-2,6(3H)-dione (118 mg, 0.923 mmol) in a mixed solvent of toluene (3 mL) and DMSO (0.3 mL) was stirred at 120° C. for 24 hr. To the reaction mixture was added cold water, and the mixture was extracted with ethyl acetate (4×30 mL). The organic layer was washed with water, and dried, and the solvent was evaporated under reduced pressure. The obtained solid was washed with 50% dichloromethane/hexane solution to give 4-(5-cyanopyridin-2-ylcarbamoyl)-3-methylbutyric acid (30 mg, 14.49%) as a pale-yellow powder.

reactant | 6-aminonicotinonitrile | 0.839 mmol, 100.0 mg | NC1=NC=C(C#N)C=C1 | C6H5N3
reactant | 4-methyldihydro-2H-pyran-2,6(3H)-dione | 0.923 mmol, 118 mg | CC1CC(OC(C1)=O)=O | C6H8O3
reactant | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
reactant | DMSO | 0.3 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 4-(5-cyanopyridin-2-ylcarbamoyl)-3-methylbutyric acid | 30 mg, 14.49% | C(#N)C=1C=CC(=NC1)NC(=O)CC(CC(=O)O)C | C12H13N3O3
